US04448960
10.5 g (0.105 mole) of triethylamine are added to a solution of 15.4 g (0.1 mole) of 6-methyl-9-oxo-1,5-diazabicyclo[4.3.0]nonane in 100 ml of toluene. The mixture is cooled to -10° C. and 14.8 g (0.1 mole) of dichloroacetyl chloride are added dropwise at from -10° to -5° C. The batch is stirred for a further 4 hours and the triethylamine hydrochloride which has precipitated is filtered off. After evaporating the toluene from the filtrate, crystals separate out, and these can be recrystallized from a 1:3 toluene/acetone mixture. 17.7 g of 5-dichloroacetyl-6-methyl-9-oxo-1,5-diazabicyclo[4.3.0]nonane, a melting point 144°-147° C., are obtained.

reactant | triethylamine | 0.105 mole, 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 6-methyl-9-oxo-1,5-diazabicyclo[4.3.0]nonane | 0.1 mole, 15.4 g | CC12NCCCN2C(CC1)=O | C8H14N2O
reactant | dichloroacetyl chloride | 0.1 mole, 14.8 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-dichloroacetyl-6-methyl-9-oxo-1,5-diazabicyclo[4.3.0]nonane | 17.7 g | ClC(C(=O)N1CCCN2C(CCC12C)=O)Cl | C10H14Cl2N2O2
